US04146715
A mixture of 9-(2-hydroxyethoxymethyl)guanine (0.25 g), succinic anhydride (0.55 g) and pyridine (50 ml) was heated under anhydrous conditions on a steam bath overnight. The solvent was evaporated under reduced pressure at <40° C., the last trace being removed azeotropically with toluene. The residue was triturated with acetone and the product removed by filtration. Recrystallization from methanol afforded 9-{2-(3-carboxypropionyloxy)ethoxymethyl} guanine, m.p. 203°-207° C. (sinter 190° C.), in 44% yield.

reactant | 9-(2-hydroxyethoxymethyl)guanine | 0.25 g | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
reactant | succinic anhydride | 0.55 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 9-{2-(3-carboxypropionyloxy)ethoxymethyl} guanine | 44% yield | C(=O)(O)CCC(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C12H15N5O6
